US08076332B2
4-Methoxy-2-nitrophenylcarbamic acid t-butyl ester (Reference Compound No. 11-1)
4-Methoxy-2-nitroaniline (1.3 g, 7.7 mmol) was added to a suspension of sodium hydride (1.1 g, 46 mmol) in THF (35 mmol), a solution of di-t-butyl dicarbonate (2.0 g, 9.2 mmol) in THF (10 mL) was dropwised thereto, and then the reaction mixture was stirred at room temperature for 18 hours. Under ice cooling, 1.0 M hydrochloric acid (50 mL) was added thereto, the whole was extracted with ethyl acetate (40 mL) three times, and then the organic layer was washed with saturated aqueous sodium hydrogen carbonate solution (50 mL) and brine (50 mL). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 1.7 g of the title reference compound as orange oil. (Yield 86%)

reactant | 4-Methoxy-2-nitroaniline | 7.7 mmol, 1.3 g | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | sodium hydride | 46 mmol, 1.1 g | [H-].[Na+]
reactant | di-t-butyl dicarbonate | 9.2 mmol, 2.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 1.0 M, 50 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 35 mmol | C1CCOC1 | C4H8O
product | 4-Methoxy-2-nitrophenylcarbamic acid t-butyl ester | Yield 86% | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OC)[N+](=O)[O-])=O | C12H16N2O5
